US06833457B1
Production of 4-(1-benzylpiperidin-4-ylidenemethyl)benzamide
4-Cyanobenzyl bromide (4.90 g, 25.0 mmol), triethyl phosphite (4.77 mL, 27.5 mmol) and toluene (4.9 mL) were charged, and the mixture was stirred with heating under reflux for 3 hrs., while distilling away the solvent at normal pressure. The mixture was allowed to return to room temperature, and concentrated under reduced pressure to give a colorless transparent oil which solidified by standing. N-benzylpiperidone (4.73 g, 25.0 mmol), ethanol (35 mL), water (451 mg, 25.0 mmol) and potassium hydroxide (pellet, 7.01 g, 125 mmol) were added successively, and the mixture was stirred at room temperature for 30 min. to give a yellow solution. The solution was stirred at 65-70° C. for 2 hrs. and cooled to 60° C. to allow precipitation of crystals to give a yellow suspension. Iced water (200 mL) was added, and the mixture was stirred at 0-5° C. After dissolution once, a yellow suspension was formed. The suspension was stirred at 0-5° C. for 30 min. and the crystals were collected by filtration and dried in vacuo at 40° C. to give the title compound (3.30 g, yield 43.0%) as white crystals.

reactant | 4-Cyanobenzyl bromide | 25.0 mmol, 4.90 g | C(#N)C1=CC=C(CBr)C=C1 | C8H6BrN
reactant | triethyl phosphite | 27.5 mmol, 4.77 mL | P(OCC)(OCC)OCC | C6H15O3P
reactant | N-benzylpiperidone | 25.0 mmol, 4.73 g | C(C1=CC=CC=C1)N1C(CCCC1)=O | C12H15NO
reactant | potassium hydroxide | 125 mmol, 7.01 g | [OH-].[K+]
solvent | water | 200 mL | O | H2O
solvent | ethanol | 35 mL | C(C)O | C2H6O
solvent | toluene | 4.9 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 25.0 mmol, 451 mg | O | H2O
product | 4-(1-benzylpiperidin-4-ylidenemethyl)benzamide | 3.30 g, yield 43.0% | C(C1=CC=CC=C1)N1CCC(CC1)=CC1=CC=C(C(=O)N)C=C1 | C20H22N2O
